US09416132B2
92. 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone oxime (EX. 8-92)
To a mixture of hydroxylamine hydrochloride (15.3 mg, 0.22 mmol) and Na2CO3 (28 mg, 0.26 mmol) in water (0.7 mL) was added a solution of 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone (50 mg, 0.147 mmol) in MeOH (0.5 mL) at 0° C. The resulting mixture was stirred at room temperature for 1 h. LCMS showed the reaction was complete. The mixture was poured into water and extracted with EtOAc (50 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC and then by SFC to give EX. 8-92 (10 mg, 19%) as a white solid.

reactant | hydroxylamine hydrochloride | 0.22 mmol, 15.3 mg | Cl.NO
reactant | Na2CO3 | 0.26 mmol, 28 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone | 0.147 mmol, 50 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)=O | C18H17ClN4O
solvent | water | 0.7 mL | O | H2O
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone oxime | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)=NO | C18H18ClN5O
